US07655797B2
7.3.585 5-Fluoro-N4-(3-hydroxyphenyl)-N2-[3-(N-2-hydroxyethylamino)carbonylmethyleneaminophenyl]-2,4-pyrimidinediamine (R950224)
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[3-(N-morpholinoethyleneamino)carbonylmethyleneaminophenyl]-2,4-pyrimidinediamine, N2-(3-ethoxycarbonylmethyleneaminophenyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine and 2-aminoethanol were reacted to prepare 5-fluoro-N4-(3-hydroxyphenyl)-N2-[3-(N2-hydroxyethylamino)carbonylmethyleneaminophenyl]-2,4-pyrimidinediamine. LCMS: ret. time: 13.28 min.; purity: 97.3%; MS (m/e): 413.04 (MH+).

reactant | N2-(3-ethoxycarbonylmethyleneaminophenyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(C)OC(=O)C=NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C20H18FN5O3
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 5-Fluoro-N4-(3-hydroxyphenyl)-N2-[3-(N-2-hydroxyethylamino)carbonylmethyleneaminophenyl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)N=CC(=O)NCCO)NC1=CC(=CC=C1)O | C20H19FN6O3
